US06413974B1
2-Chloro-6-[(2,4-dichlorobenzyl)amino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 2,4-dichlorobenzylamine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 2,4-dichlorobenzylamine | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[(2,4-dichlorobenzyl)amino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCC1=C(C=C(C=C1)Cl)Cl | C17H16Cl3N5
